US08580781B2
Preparation of tert-butyl 4-(6-oxo-1,6-dihydropyridazin-3-yl)piperazine-1-carboxylate
1 g (4.62 mmol) of 6-piperazin-1-yl-2H-pyridazin-3-one hydrochloride (Eur. J. Med. Chem. 1992, 27, 545-549) is suspended in 10 ml of THF, and 1.34 ml (9.69 mmol) of triethylamine and 1.09 ml (5.08 mmol) of di-tert-butyl dicarbonate are added. The mixture is stirred at RT for 15 h, and the solvent is removed. Ethyl acetate and water are added to the residue. A white solid remains undissolved. The residue is filtered off with suction and washed with water and ethyl acetate and dried in vacuo; yield 0.9 g; HPLC: Rt=2.27 min (method B); HPLC-MS: 281 (M+H).

reactant | 6-piperazin-1-yl-2H-pyridazin-3-one hydrochloride | 4.62 mmol, 1 g | Cl.N1(CCNCC1)C=1C=CC(NN1)=O
reactant | triethylamine | 9.69 mmol, 1.34 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.08 mmol, 1.09 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(6-oxo-1,6-dihydropyridazin-3-yl)piperazine-1-carboxylate | O=C1C=CC(=NN1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H20N4O3
